US09126931B2
4-Amino-8-methoxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile
Under nitrogen atmosphere, 4-bromo-8-methoxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile (Compound U5, 25.0 mg, 63.25 μmol), copper iodide (2.41 mg, 12.65 μmol), sodium azide (20.6 mg, 316.3 μmol), (1S,2S)—N,N′-dimethyl-cyclohexane-1,2-diamine (2.70 mg, 18.98 μmol), and sodium ascorbate (1.25 mg, 6.325 μmol) were dissolved in ethanol (0.70 mL) and water (0.30 mL) and the mixture was stirred at 100° C. for 2 hr. The reaction solution was poured into aqueous solution of sodium hydroxide (1 M), extracted with ethyl acetate, washed with water and saturated brine, dried over sodium sulfate, and then filtered. The residues obtained after concentration under reduced pressure were purified by silica gel column chromatography (methanol/dichloromethane) to obtain the title compound (5.6 mg, 27%).

reactant | 4-bromo-8-methoxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 63.25 μmol, 25.0 mg | BrC=1C(=CC=C2C=3C(C4=C(C(C3NC12)(C)C)C=C(C=C4)OC)=O)C#N | C20H15BrN2O2
reactant | sodium azide | 316.3 μmol, 20.6 mg | [N-]=[N+]=[N-].[Na+]
reactant | (1S,2S)—N,N′-dimethyl-cyclohexane-1,2-diamine | 18.98 μmol, 2.70 mg | CN[C@@H]1[C@H](CCCC1)NC | C8H18N2
reactant | sodium ascorbate | 6.325 μmol, 1.25 mg | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | ethanol | 0.70 mL | C(C)O | C2H6O
catalyst | copper iodide | 12.65 μmol, 2.41 mg | [Cu](I)I
solvent | water | 0.30 mL | O | H2O
product | 4-Amino-8-methoxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 5.6 mg, 27% | NC=1C(=CC=C2C=3C(C4=C(C(C3NC12)(C)C)C=C(C=C4)OC)=O)C#N | C20H17N3O2
